US07994203B2
Step 4: 3-(2,4-Dimethyl-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid
A stirred mixture of 3-(2,4-dimethyl-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid ethyl ester (224 mg, 0.72 mmol, 1 eq.) and lithium hydroxide monohydrate (150 mg, 3.59 mmol, 5 eq.) in EtOH (4 ml) and water (2 ml) is heated at 45° C. for 14 h. The reaction mixture is cooled to RT then concentrated under reduced pressure. The residue is dissolved in water and the resulting aqueous solution is neutralized using 2M HCl in water (1.8 ml). The resulting precipitate is filtered, washed with water and dried under vacuum to yield the title compound as a white solid. The crude compound is used without further purification. HPLC: AtRet=2.12; MS: m/z 285.2 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 2.20 (s, 3H), 2.33 (s, 3H), 2.36 (s, 3H), 2.39 (s, 3H), 7.16 (m, 1H), 7.24 (br. s., 1H), 7.31 (m, 1H), 12.30 (br. s., 1H).

reactant | 3-(2,4-dimethyl-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid ethyl ester | 0.72 mmol, 224 mg, 1 eq. | C(C)OC(=O)C=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)C)C)C)C | C18H20N2O3
reactant | lithium hydroxide monohydrate | 3.59 mmol, 150 mg, 5 eq. | O.[OH-].[Li+]
solvent | EtOH | 4 ml | CCO | C2H6O
solvent | water | 2 ml | O | H2O
product | 3-(2,4-Dimethyl-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid | CC1=C(C=CC(=C1)C)C=1N2C(OC1C)=C(C(=N2)C)C(=O)O | C16H16N2O3
